US04484007
To a solution of n-propylmagnesium bromide (0.25 mole) in tetrahydrofuran (200 ml) was added 7-methoxy-3,7-dimethyl-1-octene (42.5 g) and biscyclopentadienyl titanium dichloride (1.25 g). After the vigorous reaction subsided, the mixture was heated in an oil bath (75°) for 19 hours. Aliquot quench at this point indicated ~50% conversion. The Grignard exchange product was transferred to a separatory funnel, and added dropwise to p-isopropylbenzyl chloride (21 g) in THF (300 ml) containing cuprous chloride (2.5 g) cooled at 0° to -10° while stirring. On warming to room temperature overnight, the reaction was then quenched with aqueous ammonium chloride and extracted with pentane. The pentane extracts were distilled to give product (2,6-dimethyl-2-methoxy-9-isopropylphenylnonane) (12.5 g; bp 150°-152° /0.25-0.3 torr) contaminated with some p, p'-diisopropylbibenzyl.

reactant | n-propylmagnesium bromide | 0.25 mole | C(CC)[Mg]Br
reactant | 7-methoxy-3,7-dimethyl-1-octene | 42.5 g | COC(CCCC(C=C)C)(C)C | C11H22O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | biscyclopentadienyl titanium dichloride | 1.25 g | [Cl-].[Cl-].C1(C=CC=C1)[Ti+2]C1C=CC=C1
product | 2,6-dimethyl-2-methoxy-9-isopropylphenylnonane | CC1(C(C(=CC=C1)C)CCCCCCCCCC(C)C)OC | C21H38O
